US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-ethyl-1-methylcarbamoyl-propyl)-amide
The title compound was synthesized in analogy to Example 15, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g; 100 mg, 0.42 mmol) and 2-amino-2-ethyl-N-methyl-butyramide (78.2 mg, 0.64 mmol) as starting materials, and isolated (12 mg, 9.44%) as colorless sticky solid, LC-MS (UV peak area, ESI) 97.47%, 361.4 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.42 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 2-amino-2-ethyl-N-methyl-butyramide | 0.64 mmol, 78.2 mg | NC(C(=O)NC)(CC)CC | C7H16N2O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-ethyl-1-methylcarbamoyl-propyl)-amide | C(C)C(CC)(C(NC)=O)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C19H28N4O3
